US04012499
A mixture of 7-tert.butyl-3-cyanothioxanthone (1.25g), sodium azide (0.31g), ammonium chloride (0.25g) and dimethylformamide (15ml) was heated at 125°- 130° C for 4 hr., cooled, and poured into dilute hydrochloric acid. The yellow precipitated product was filtered off and recrystallised from dimethylformamide to yield 7-tert.butyl-3-(5-tetrazolyl)thioxanthone, m.p. 277° C. with decomposition. Found: C 64.33%; H 5.11%; N 16.68%. C18H16O4OS requires C 64.27%; H 4.80%; N 16.66%.

reactant | 7-tert.butyl-3-cyanothioxanthone | 1.25g | C(C)(C)(C)C1=CC=C2SC=3C=C(C=CC3C(C2=C1)=O)C#N | C18H15NOS
reactant | sodium azide | 0.31g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 0.25g | [Cl-].[NH4+]
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 15ml | CN(C=O)C | C3H7NO
product | 7-tert.butyl-3-(5-tetrazolyl)thioxanthone | C(C)(C)(C)C1=CC=C2SC=3C=C(C=CC3C(C2=C1)=O)C1=NN=NN1 | C18H16N4OS
